US09255110B2
To a solution of 0.047 g (0.134 mmole) 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid(2,4-dimethoxy-phenyl)-amide in 1.34 mL of dioxane was added 0.0967 mL (0.806 mmole) of (cis-cyclohexane-1,2-diamine. The mixture was heated at 100 degrees for over night. Dichloromethane was added and washed with aqueous sodium bicarbonate. The aqueous layer was washed twice with dichloromethane. The organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-0.7 N ammonia solution in methanol (gradient 100:0-90:10) gave 0.052 g of 2-(cis-2-amino-cyclohexylamino)-thieno[3,2-d]pyrimidine-7-carboxylic acid (2,4-dimethoxy-phenyl)-amide as a yellow solid. MH+/Z=428

reactant | 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid(2,4-dimethoxy-phenyl)-amide | 0.134 mmole, 0.047 g | COC1=C(C=CC(=C1)OC)NC(=O)C1=CSC2=C1N=C(N=C2)Cl | C15H12ClN3O3S
reactant | cis-cyclohexane-1,2-diamine | [C@@H]1([C@H](CCCC1)N)N | C6H14N2
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | 1.34 mL | O1CCOCC1 | C4H8O2
product | 2-(cis-2-amino-cyclohexylamino)-thieno[3,2-d]pyrimidine-7-carboxylic acid (2,4-dimethoxy-phenyl)-amide | 0.052 g | COC1=C(C=CC(=C1)OC)NC(=O)C1=CSC2=C1N=C(N=C2)N[C@H]2[C@H](CCCC2)N | C21H25N5O3S
